US07132425B2
A solution of 3-cyclopentyl-2(R)-(4-methanesulfonyl-3-methyl-pheny)-propionic acid (310 mg, 1.0 mmol) in methylene chloride (5 mL) was treated with oxalyl chloride (0.175 mL, 2.0 mmol) and N,N-dimethylformamide (1 drop). The solution was stirred at 25° C. for 45 min. The reaction mixture was concentrated in vacuo, and the residue was suspended in toluene. The toluene was further concentrated in vacuo. The resulting residue was dried in vacuo. The waxy material was dissolved in methylene chloride (5 mL), cooled to 0° C., and then treated with a solution of 2-amino-5-bromopyrazine (1.74 g, 1.0 mmol) and pyridine (0.121 mL, 1.5 mmol) in methylene chloride (5 mL). The mixture was stirred at 0° C. for 20 min and then stirred at 25° C. for 3 h. The solution was extracted with methylene chloride and water. The organic layer was washed with a 1N aqueous hydrochloric acid solution, a saturated aqueous sodium chloride solution, a saturated aqueous sodium bicarbonate solution, and a saturated aqueous sodium chloride solution. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1/2 ethyl acetate/hexanes) afforded the N-(5-bromo-pyrazin-2-yl)-3-cyclopentyl-2(R)-(4-methanesulfonyl-3-methyl-pheny)-propionamide (391 mg, 84%) as a fluffy solid.

reactant | 3-cyclopentyl-2(R)-(4-methanesulfonyl-3-methyl-pheny)-propionic acid | 1.0 mmol, 310 mg | C1(CCCC1)C[C@@H](C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)C | C16H22O4S
reactant | oxalyl chloride | 2.0 mmol, 0.175 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-5-bromopyrazine | 1.0 mmol, 1.74 g | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | pyridine | 1.5 mmol, 0.121 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-pyrazin-2-yl)-3-cyclopentyl-2(R)-(4-methanesulfonyl-3-methyl-pheny)-propionamide | 391 mg, 84% | BrC=1N=CC(=NC1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C)=O | C20H24BrN3O3S
